US08017611B2
A solution of bromine (0.405 ml) in dichloromethane (8 ml) at 0-5° C. was added dropwise to a mixture of 3-methoxypyrazole (775 mg) and sodium carbonate (1.67 mg) in dichloromethane (16 ml) under argon over a period of 10 minutes. The resulting suspension was stirred at 0-5° C. for 30 minutes. Aqueous sodium thiosulfate (2.37 ml, 0.1N) at 0-5° C. was added to the stirred suspension and the resulting mixture was stirred at 0-5° C. for 1 hour. The reaction mixture was allowed to warm to room temperature and quenched with water. The phases were separated. The aqueous phase was extracted with dichloromethane. The combined organic phases were washed with water, dried over magnesium sulfate and concentrated to afford a brown oil. Hydrogen chloride (4N in dioxane) (1.975 ml) was added to this brown oil. The mixture was diluted in dioxane and triturated. The resulting precipitate was collected by filtration, washed with dioxane and diethyl ether and dried to a constant weight to afford 4-bromo-3-methoxy-1H-pyrazole, hydrochloride salt (1 g) as a solid, which was used without further purification. NMR Spectrum: (DMSOd6) 3.82 (s, 3H), 7.78 (s, 1H), 7.99 (bs, 2H)

reactant | bromine | 0.405 ml | BrBr | Br2
reactant | 3-methoxypyrazole | 775 mg | COC1=NNC=C1 | C4H6N2O
reactant | sodium carbonate | 1.67 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | sodium thiosulfate | 0.1N, 2.37 ml | S(=S)(=O)([O-])[O-].[Na+].[Na+]
reactant | Hydrogen chloride | 4N, 1.975 ml | Cl | ClH
solvent | dichloromethane | 8 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 16 ml | ClCCl | CH2Cl2
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 4-bromo-3-methoxy-1H-pyrazole, hydrochloride salt | 1 g | Cl.BrC=1C(=NNC1)OC | InChI=1S/C4H5BrN2O.ClH/c1-8-4-3(5)2-6-7-4;/h2H,1H3,(H,6,7);1H
